US07084139B2
(2R)-2-{[(Benzyloxy)carbonyl]amino}-5-[(methylsulfonyl)oxy]pentyl methanesulfonate
A solution of benzyl (1R)-4-hydroxy-1-(hydroxymethyl)butylcarbamate (1.5 g) in DCM (60 ml) was treated with triethylamine (3.3 ml) and stirred at room temperature for 10 min. Methanesulphonyl chloride (1.34 ml) was then added dropwise and the resultant mixture stirred at 0° C. for 75 min. Sodium bicarbonate solution was added and the reaction mixture allowed to reach room temperature over 1 h. The organic layer was separated, washed with brine, dried (over magnesium sulphate) and concentrated under reduced pressure to give a yellow oil. The oil was purified using Biotage™ chromatography (eluting with hexane:ethyl acetate 1:2, 1:3) to give the title compound (1.924 g) as a yellow oil

reactant | benzyl (1R)-4-hydroxy-1-(hydroxymethyl)butylcarbamate | 1.5 g | OCCC[C@H](CO)NC(OCC1=CC=CC=C1)=O | C13H19NO4
reactant | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonyl chloride | 1.34 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | (2R)-2-{[(Benzyloxy)carbonyl]amino}-5-[(methylsulfonyl)oxy]pentyl methanesulfonate | 1.924 g | CS(=O)(=O)OC[C@@H](CCCOS(=O)(=O)C)NC(=O)OCC1=CC=CC=C1 | C15H23NO8S2
